US07504408B2
N-[5-Chloro-7-(4-methoxypent-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine
This was prepared by the method described in example 4 but using 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline (200 mg, 0.59 mmol), 5-chloro-7-(4-methoxypent-1-yn-1-yl)-1,3-benzodioxole-4-amine (174 mg, 0.65 mmol) and sodium bis(trimethylsilyl)amide (1.0M in THF, 1.24 ml) in DMF (3 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent. There was thus obtained the title compound (216 mg, 64%) as an off-white solid; NMR Spectrum:(CDCl3) 1.33 (d, 3H), 2.12 (quintet, 2H), 2.47 (m, 4H), 2.55 (m, 3H), 2.74 (dd, 1H), 3.40 (s, 3H), 3.58 (m, 1H), 3.71 (m, 4H), 3.98 (s, 3H), 4.25 (t, 2H), 6.07 (s, 2H), 6.90 (s, 1H), 7.03 (s, 1H), 7.09 (s, 1H), 7.30 (s, 1H ), 8.62 (s, 1H); Mass Spectrum: M+H+ 569/571.

reactant | 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline | 0.59 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 5-chloro-7-(4-methoxypent-1-yn-1-yl)-1,3-benzodioxole-4-amine | 0.65 mmol, 174 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCC(C)OC)N | C13H14ClNO3
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 1.24 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-[5-Chloro-7-(4-methoxypent-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine | 216 mg, 64% | ClC1=C(C2=C(OCO2)C(=C1)C#CCC(C)OC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C29H33ClN4O6
